US08580777B2
A. (S)-3-Methyl-2-{[1-phenylmethylidene]amino}butan-1-ol
2.64 ml (2.78 g, 26.16 mmol) of benzaldehyde were added to a stirred solution of 2.57 g (24.91 mmol) of L-valinol in 28 ml of toluene, and the mixture was heated under reflux with a water trap for one hour. Cooling was followed by concentration and recrystallization from heptane. The colorless solid was filtered off with suction and dried under reduced pressure (3.74 g).

reactant | benzaldehyde | 26.16 mmol, 2.64 ml, 2.78 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | L-valinol | 24.91 mmol, 2.57 g | N[C@@H](C(C)C)CO | C5H13NO
solvent | toluene | 28 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-3-Methyl-2-{[1-phenylmethylidene]amino}butan-1-ol | CC([C@@H](CO)N=CC1=CC=CC=C1)C | C12H17NO
